**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Bi-color Side View Waterclear
* Matchcode:              WL-SBSW
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-16
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1204_155124RG73200 1 2 3
D1 2 1 Red
.MODEL Red D
+ IS=89.339E-15
+ N=2.7278
+ RS=.47854
+ IKF=843.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 2 3 Green
.MODEL Green D
+ IS=10.010E-21
+ N=3.0350
+ RS=1.0000E-6
+ IKF=10.684E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 1204_155124RV73200 1 2 3
D1 2 1 Red
.MODEL Red D
+ IS=15.037E-15
+ N=2.4740
+ RS=.41091
+ IKF=803.24E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 2 3 BGreen
.MODEL BGreen D
+ IS=10.010E-21
+ N=1.9564
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
**********



















